US06949542B2
7,8-Dichloro-4-[3-(2-hydroxymethyl-6-methyl-pyridin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from commercially available 4,5-dichloro-1,2-phenylendiamine (177 mg, 1.0 mmol) and (RS)-3-{3-[2-methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-3-oxo-propionic acid tert-butyl ester (Example K64) (426 mg, 1.0 mmol) in xylene (20 ml) under reflux conditions for 1.5 h according to the general procedure M and subsequent treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light brown solid (140 mg, 35%).

reactant | 4,5-dichloro-1,2-phenylendiamine | 1.0 mmol, 177 mg | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | (RS)-3-{3-[2-methyl-6-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 426 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC(=C1)COC1OCCCC1)C)=O | C25H31NO5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7,8-Dichloro-4-[3-(2-hydroxymethyl-6-methyl-pyridin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NC(=C2)C)CO)=O)C=C1Cl | C22H17Cl2N3O2
